US04539410
A solution of 5-methoxygramine (3.96 g) in absolute ethanol (80 ml) with 10% Palladium on carbon (0.40 g) is hydrogenated at atmospheric pressure for 10 hours. The catalyst is removed by vacuum filtration through Hy-Flo and the filtrate is concentrated in vacuo to give an oil which crystallizes on standing to give 5-methoxy-3-methylindole.

reactant | 5-methoxygramine | 3.96 g | CN(C)CC1=CNC2=C1C=C(C=C2)OC | C12H16N2O
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | Palladium on carbon | 0.40 g | [Pd] | Pd
product | 5-methoxy-3-methylindole | COC=1C=C2C(=CNC2=CC1)C | C10H11NO
